US07087601B2
To a stirred slurry of 10% palladium on carbon (2.26 g, 2.12 mmol) in MeOH (100 mL) was added 4-bromo-2-fluoro-6-nitrophenol (5.00 g, 21.2 mmol). The reaction mixture was stirred under an H2 atmosphere until significant reduction was seen by TLC. The mixture was filtered through Celite and concentrated in vacuo. The resultant solid was triturated with hexanes and reconcentrated to remove residual MeOH and give 2-amino-6-fluorophenol as a dark gray solid. 1H NMR (DMSO-d6, 300 MHz) δ 10.86 (br s, 1H), 9.54 (br s, 2H), 7.25–7.19 (m, 1H), 7.13 (d, 1H), 6.94–6.86 (m, 1H).

reactant | 4-bromo-2-fluoro-6-nitrophenol | 21.2 mmol, 5.00 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])O)F | C6H3BrFNO3
catalyst | palladium on carbon | 2.12 mmol, 2.26 g | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | 2-amino-6-fluorophenol | NC1=C(C(=CC=C1)F)O | C6H6FNO
